US04130660
A solution of 20.0 g of 5-aminosalicylic acid, 250 ml of methanol and 10 ml of concentrated sulfuric acid is refluxed overnight. The reaction mixture is cooled, made alkaline with dilute aqueous sodium carbonate solution and concentrated. The resulting solid is separated and washed with water. The solid is then washed with ether, and the ether is evaporated to dryness yielding a brown solid. The aqueous filtrate above is extracted with ether, the extract is dried over anhydrous sodium sulfate, and evaporated yielding a brown solid. The solids are combined and recrystallized from ether to afford 10.7 g of 5-aminosalicylic acid methyl ester.

reactant | 5-aminosalicylic acid | 20.0 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 5-aminosalicylic acid methyl ester | 10.7 g | COC(C=1C(O)=CC=C(C1)N)=O | C8H9NO3
